US07045514B2
Ethyl 8-(4-methyl-1-piperazinyl)-4-oxo-4H-chromene-2-carboxylate as prepared in Reference Example 1d (1.01 g. 3.19 mmol) was suspended in 6 M HCl (60 ml) and to reflux for 1.5 h (after 20 min a clear solution was obtained). The reaction was allowed to cool. The solution was concentrated in vacuo and anhydrous toluene was added (×3) and the solution was again concentrated in vacuo to give 8-(4-methyl-1-piperazinyl)-4-oxo-4H-chromene-2-carboxylic acid hydrochloride as a yellow powder (1.02 g, quantitative yield). LC/MS (M+1) m/z 289.

reactant | Ethyl 8-(4-methyl-1-piperazinyl)-4-oxo-4H-chromene-2-carboxylate | CN1CCN(CC1)C=1C=CC=C2C(C=C(OC12)C(=O)OCC)=O | C17H20N2O4
reactant | HCl | 6 M, 60 ml | Cl | ClH
product | 8-(4-methyl-1-piperazinyl)-4-oxo-4H-chromene-2-carboxylic acid hydrochloride | 1.02 g, quantitative yield | Cl.CN1CCN(CC1)C=1C=CC=C2C(C=C(OC12)C(=O)O)=O | InChI=1S/C15H16N2O4.ClH/c1-16-5-7-17(8-6-16)11-4-2-3-10-12(18)9-13(15(19)20)21-14(10)11;/h2-4,9H,5-8H2,1H3,(H,19,20);1H
